US06900216B2
n-Butyllithium (2.5 M solution in hexanes; 91 ml) was added dropwise under nitrogen at 0° C. to a stirred solution of diisopropylamine (35 ml) in tetrahydrofuran (450 ml), then the mixture was cooled to −75° C., 3-bromofluorobenzene (25 ml) was added over 10 minutes and the mixture was stirred at −75° C. for 1 hour. Dimethylformamide (19.3 ml) was added dropwise at −70° C. over 5 minutes, the mixture was stirred for 10 minutes, then acetic acid (20 ml) and water (700 ml) were added. The mixture was allowed to warm to 10° C. and the product was extracted into ether (500+300 ml). The combined extracts were washed with water (2×500 ml), 0.2M hydrochloric acid (500 ml) and saturated aqueous sodium chloride solution (2×250 ml), then they were dried (Na2SO4) and the solvents were removed in vacuo to give 2-bromo-6-fluorobenzaldehyde (40.18 g) as an off-white solid, m.p. 35-37° C.

reactant | n-Butyllithium | 2.5 M, 91 ml | C(CCC)[Li]
reactant | diisopropylamine | 35 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-bromofluorobenzene | 25 ml | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | Dimethylformamide | 19.3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | water | 700 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-6-fluorobenzaldehyde | 40.18 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
